US08053457B2
3-Oxo-4-pyridin-3-ylmethyl-piperazine-1-carboxylic acid tert-butyl ester
A mixture of 3-Oxo-piperazine-1-carboxylic acid tert-butyl ester (2.0 g, 9.99 mmol) and 3-Picolyl chloride hydrochloride (1.63 g, 9.99 mmol) in DMF (20 mL) is treated by 60% NaH in mineral oil (0.80 g, 19.98 mmol) at 0° C. After completion, the reaction mixture is quenched by H2O, EtOAc is added and the organic layer is washed with brine, dried over MgSO4 and evaporated in vacuo. Silica gel flash chromatography of the residue affords the title compound as a colorless oil; ES-MS: M+H=292.2et=4.15.

reactant | 3-Oxo-piperazine-1-carboxylic acid tert-butyl ester | 9.99 mmol, 2.0 g | C(C)(C)(C)OC(=O)N1CC(NCC1)=O | C9H16N2O3
reactant | 3-Picolyl chloride hydrochloride | 9.99 mmol, 1.63 g | Cl.N1=CC(=CC=C1)CCl
reactant | NaH | [H-].[Na+]
solvent | DMF | 20 mL | CN(C)C=O | C3H7NO
product | 3-Oxo-4-pyridin-3-ylmethyl-piperazine-1-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1CC(N(CC1)CC=1C=NC=CC1)=O | C15H21N3O3
